US07943619B2
e) 6-[3-(5-Fluoro-pyridin-2-yl)-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid
As described for example 112a, 6-[3-(5-fluoro-pyridin-2-yl)-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester (405 mg, 1.18 mmol) was converted, instead of 5-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester, to the title compound (349 mg, 94%) which was obtained as an off white solid. MS: m/e=315.1 [M−H]−.

reactant | 6-[3-(5-fluoro-pyridin-2-yl)-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester | 1.18 mmol, 405 mg | C(C)OC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1)C1=NC=C(C=C1)F | C16H13FN4O4
reactant | 5-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)Cl | C16H12ClN3O4
product | 6-[3-(5-Fluoro-pyridin-2-yl)-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid | 349 mg, 94% | FC=1C=CC(=NC1)C1=NOC=C1COC1=CC=C(N=N1)C(=O)O | C14H9FN4O4
